US04877720
Synthesis of N,N-dibutyl-4-chloro-3-nitrobenzenesulfonamide
To 565 g of dibutylamine were added 2.5 liters of water and 230 g of sodium hydroxide and the mixture was cooled to 0° C. To the mixture was added dropwise 1400 ml of an acetonitrile solution containing 1120 g of 3-nitro-4-chlorobenzenesulfonyl chloride while maintaining at 10° C. or lower. After the completion of the reaction, 100 ml of concentrated hydrochloric acid was added thereto. The crystals thus deposited were collected by filtration, washed with water and dried. Yield: 1208 g (79.2%). Melting point: 67° to 68° C.

reactant | dibutylamine | 565 g | C(CCC)NCCCC | C8H19N
reactant | sodium hydroxide | 230 g | [OH-].[Na+]
reactant | 3-nitro-4-chlorobenzenesulfonyl chloride | 1120 g | [N+](=O)([O-])C=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl2NO4S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetonitrile | 1400 ml | C(C)#N | C2H3N
solvent | water | 2.5 liters | O | H2O
product | N,N-dibutyl-4-chloro-3-nitrobenzenesulfonamide | C(CCC)N(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])CCCC | C14H21ClN2O4S
